US09023847B2
96. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((S)-1-hydroxymethyl-2-methyl-propyl)-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using (2S)-2-amino-3-methylbutan-1-ol instead of tert-butyl-2-amino ethyl carbamate. LCMS (ESI) 345 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.49 (1H, br. s.) 10.02 (1H, s) 7.99 (1H, d, J=5.47 Hz) 7.79 (1H, d, J=5.27 Hz) 7.57 (1H, d, J=8.98 Hz) 7.41 (1H, d, J=5.47 Hz) 7.29 (1H, dd, J=3.32, 2.34 Hz) 6.69 (1H, d, J=5.47 Hz) 6.42 (1H, dd, J=3.51, 1.56 Hz) 4.58 (1H, t, J=5.56 Hz) 3.80 (1H, dd, J=8.88, 6.74 Hz) 3.46 (2H, t, J=5.95 Hz) 1.85 (1H, dq, J=13.64, 6.78 Hz) 0.85 (3H, d, J=6.64 Hz) 0.78 (3H, d, J=6.83 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | (2S)-2-amino-3-methylbutan-1-ol | N[C@H](CO)C(C)C | C5H13NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((S)-1-hydroxymethyl-2-methyl-propyl)-amide | OC[C@H](C(C)C)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C17H20N4O2S
